US04950733
Synthesis of capryloyloxyhexyl acrylate (COHA)
A mixture of caprylic acid (110.5 g; 0.7662 mol) and 1,6-hexandiol (600 g; 5.077 mol) was heated to max. temperature 200° C. for 5 hours, while 25 g of organic volatile compounds and water was removed by distillation. The excess of 1,6-hexandiol was distilled off in vacuum and the residue was cooled and diluted with benzene (750 ml). The benzene solution was extracted with water (3×250 ml), the solvent was evaporated, and the product was distilled through a short empty column (100×25 mm). 6-Hydroxyhexyl caprylate (HHC) had b.p. 120° C./8 Pa. The main fraction containing 98.6% HHC was obtained in the yield of 157.2 g (84%). Elemental analysis for C14H28O3 theory: 68.81% C; 11.55% H; found: 68.65% C, 11.72% H. Infrared and 13C--NMR spectra proved the structure of HHC.

reactant | caprylic acid | 0.7662 mol, 110.5 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | 1,6-hexandiol | 5.077 mol, 600 g | C(CCCCCO)O | C6H14O2
reactant | HHC | C(CCCCCCC)(=O)OCCCCCCO | C14H28O3
product | capryloyloxyhexyl acrylate | C(C=C)(=O)OCCCCCCOC(CCCCCCC)=O | C17H30O4
